Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PODIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R foot infection
 
Major Surgical or Invasive Procedure:
___: R foot debridement
 
History of Present Illness:
HPI: ___ PMH DM c/b charcot now s/p R foot exostectomy being 
admitted for pain control, IV antibiotics and observation for 
rehab placement post operatively. The pt has chronic recurrent 
ulcerations ___ charcot foot type. Pt denies currently pain as 
well as N/V/F/SOB.

Of note, recent admission for charcot foot on R with significant 
ulceration, disruption of tarsal alignment, purulent drainage, 
and imaging concerning for osteomyelitis w/ neg bone biopsy and 
6 week course initially of vanc, cefepime and flagyl, however 
changed vanco to daptomycin in early ___. 
 
Past Medical History:
PMH: HTN, lipids, DM2, gastric bypass, murmur, severe aortic 
stenosis, bilat TKR, h/o DVT/PE on coagulation w/ warfarin
 
Social History:
___
Family History:
FH: Daughter alive and healthy. Father died of MI at ___. Mother 
lived to ___.

 
Physical Exam:
PRE-OP PHYSICAL EXAM
Gen: NAD, AAOx3
AVSS
Card: RRR
Pulm: no respiratory distress
Abd: soft, nontender
LLE: DSD, no strikethrough on dressings. CFTs intact to digits.

DISCHARGE PHYSICAL EXAM
Gen: NAD, AAOx3
AVSS
Card: RRR
Pulm: no respiratory distress
Abd: soft, nontender
LLE: DSD, no strikethrough on dressings. Walking cast intact. 
CFTs intact to digits.

 
Pertinent Results:
___ 06:38AM BLOOD WBC-5.9 RBC-3.99* Hgb-11.3* Hct-34.9* 
MCV-88 MCH-28.3 MCHC-32.4 RDW-16.6* Plt ___
___ 07:19AM BLOOD WBC-6.5 RBC-3.71* Hgb-10.8* Hct-32.2* 
MCV-87 MCH-29.2 MCHC-33.6 RDW-16.3* Plt ___
___ 06:38AM BLOOD Plt ___
___ 06:38AM BLOOD ___ PTT-29.5 ___
___ 07:19AM BLOOD Plt ___
___ 07:19AM BLOOD ___ PTT-28.3 ___
___ 07:19AM BLOOD Glucose-107* UreaN-12 Creat-0.6 Na-143 
K-3.5 Cl-105 HCO3-27 AnGap-15
___ 07:19AM BLOOD Calcium-8.8 Phos-3.4 Mg-1.6

___ 8:00 am TISSUE      RIGHT FOOT CUBOID. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___: 
      YEAST, PRESUMPTIVELY NOT C. ALBICANS.    SPARSE GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

PATHOLOGIC DIAGNOSIS:
1. Right foot, cuboid bone, excision (1A):
- Fragments of bone with remodelling and fibrosis of bone 
marrow.
CLINICAL HISTORY:
Right foot arthropathy, neurological disorder.
GROSS DESCRIPTION:
The specimen is received fresh in a container labeled with the 
patient's name, ___,
the medical record number, and "right foot cuboid". It consists 
of a small piece of unremarkable
bone which measures 1.4 x 1.3 x 0.5 cm. The bone is sectioned 
into four pieces and entirely
submitted in 1A for decalcification.

___ 10:45AM BLOOD ___ PTT-35.5 ___
___ 06:45AM BLOOD ___
___ 06:40AM BLOOD Na-140 K-3.7 Cl-100
___ 06:45AM BLOOD Na-139 K-3.7 Cl-101
___ 06:40AM BLOOD 25VitD-29*
___ 06:40AM BLOOD calTIBC-404 Ferritn-17 TRF-311
___ 07:19AM BLOOD Calcium-8.8 Phos-3.4 Mg-1.6
 
Brief Hospital Course:
The patient presented to pre-operative holding in the morning 
___ for a R foot debridement. Pt was evaluated by 
anesthesia and taken to the operating room.  There were no 
adverse events in the operating room; please see the operative 
note for details. Afterwards, pt was taken to the PACU in stable 
condition, then transferred to the ward for observation. After 
thorough evaluation, it was deemed necessary to admit the 
patient to the podiatric surgery service for observation, rehab 
placement and pain control.  

Post-operatively, the patient remained afebrile with stable 
vital signs; pain was well controlled with IV pain medication 
that was then transitioned into an entirly oral pain medication 
regimen on a PRN basis.  The patient remained stable from both a 
cardiovascular and pulmonary standpoint.  Urine output remained 
adequate throughout the hospitalization.  The patient received 
subcutaneous heparin as well as venodyne boots throughout 
admission; early and frequent ambulation were strongly 
encouraged while remaining NWB RLE. The patient had an INR upon 
admission was 1.0 and it was discussed whether she was 
previously taking her coumadin. She reports to have stopped 
taking her coumadin for several weeks and it was advised she 
speaks with her PCP upon discharge regarding her coumadin 
prescription. Her coumadin was restarted on post op day ___ 
at 10mg qd per her OMR records and patient. Her INR increased 
above the therapeutic range and the dose was decreased to 5 or 
4mg per day. She remained stable with an INR ___ from then on 
out. An orthotect walking cast was applied ___ and physical 
therapy worked with her daily. She was cleared to go home with 
___ on HD20. 

The patient was subsequently discharged HD21. The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan.
 
Medications on Admission:
?warfarin, Lasix 20 BID, Lisinopril 5 daily, famotidine 10mg 
bid, trazodone 5mg hs, Atenolol 50 mg qd, Pravastatin 20 mg qd 

 
Discharge Medications:
1. Furosemide 20 mg PO Q2PM 
2. Furosemide 40 mg PO QAM 
3. Lisinopril 5 mg PO DAILY 
4. Pravastatin 20 mg PO DAILY 
5. MetFORMIN (Glucophage) 500 mg PO BID 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Vitamin D ___ UNIT PO BID 
9. Warfarin 5 mg PO 4X/WEEK (___) 
RX *warfarin 1 mg ___ tablet(s) by mouth once a day Disp #*80 
Tablet Refills:*0
10. Warfarin 4 mg PO 3X/WEEK (___) 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
s/p Right foot exostectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane) for weightbearing status.

 
Discharge Instructions:
These are the discharge instructions for post-operative 
discharge instructions. 

Discharge Instructions: Please call your surgeon or return to 
the emergency department if you develop a fever greater than 
101.5, severe increase in pain to operative site or pain 
unrelieved by your pain medication, nausea, vomiting, chills, 
foul smelling or colorful drainage from your incisions/wounds, 
redness or swelling around your incisions, or any other symptoms 
which are concerning to you.

Diet: ___ regular diet

Medication Instructions:
Resume your home medications.
You will be starting some new medications:
1.  You are being discharged on medications to treat the pain 
from your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST refrain from such activities while 
taking these medications.
2.  While in the hospital, your INR was monitored daily. From 
the data we gathered, your ideal regimen is alternating 4mg and 
5mg daily.  Please, continue this regimen at home.  Your next 
INR should be checked in three days.  Follow up with your PCP 
who will manage this.

Activity:
Please, remain partial weightbearing to your right foot.  This 
is crucial to increase healing potential.  Always wear your 
walking cast while being partial weightbearing.

Wound Care:
You may shower but please keep dressings clean, dry, and intact. 
 Do not submerge your foot/leg in water. 
Please call the doctor or page the ___ pager, if you have 
increased pain, swelling, redness, or drainage to the operative 
sites.
 
Followup Instructions:
___